US06333324B1
2-(2-Pyridyl)ethanesulfonic acid (1.00 g) was suspended in thionyl chloride (5 ml). Catalytic amount of DMF was added to the suspension. The mixture was stirred at 50° C. for 30 minutes, and was concentrated in vacuo. The resulting solid was recovered and washed with Et2O to give 1.41 g of 2-(2-pyridyl)ethanesulfonyl chloride hydrochloride as a solid.

reactant | 2-(2-Pyridyl)ethanesulfonic acid | 1.00 g | N1=C(C=CC=C1)CCS(=O)(=O)O | C7H9NO3S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(2-pyridyl)ethanesulfonyl chloride hydrochloride | 1.41 g | Cl.N1=C(C=CC=C1)CCS(=O)(=O)Cl | InChI=1S/C7H8ClNO2S.ClH/c8-12(10,11)6-4-7-3-1-2-5-9-7;/h1-3,5H,4,6H2;1H
